US07589221B2
Production of (1S)-1-propylheptyl p-toluenesulfonate:
(2R)-2-Hexyloxirane (1.22 mL, 100% ee) was added dropwise to a tetrahydrofuran (2.21 mL) solution of copper chloride (15.8 mg) at −20° C. under argon atmosphere, and then a 2.11 mol/L ethyl magnesium chloride in tetrahydrofuran solution (4.55 mL) was added dropwise thereto. The reaction mixture was stirred at −20° C. for 1.5 hours, and a tetrahydrofuran solution of p-toluenesulfonyl chloride (1.83 g) was added dropwise thereto, followed by stirring for 1.5 hours. Then, the temperature was raised up to 0° C., followed by stirring for 3.5 hours. To the reaction solution were added water and pyridine, followed by stirring at 0° C. for 40 minutes, ethyl acetate was added thereto and the mixture was successively washed with 10% sulfuric acid (twice), water and brine and concentrated to give the title compound (2.27 g) having the following physical data.

reactant | (2R)-2-Hexyloxirane | 1.22 mL | C(CCCCC)[C@H]1OC1 | C8H16O
reactant | ethyl magnesium chloride | 2.11 mol/L | C(C)[Mg]Cl
reactant | p-toluenesulfonyl chloride | 1.83 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 4.55 mL | O1CCCC1 | C4H8O
catalyst | copper chloride | 15.8 mg | [Cu](Cl)Cl
solvent | tetrahydrofuran | 2.21 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (1S)-1-propylheptyl p-toluenesulfonate | 2.27 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@H](CCCCCC)CCC)C | C17H28O3S
